US07696213B2
3-(8-Cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoic acid (Compound 130)
Ethyl 3-(8-cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoate (167 mg, 0.45 mmole) was dissolved in THF (5 ml) in a reaction vial equipped with a stir bar. Lithium hydroxide (35 mg, 1.46 mmole) was dissolved in water (5 ml) and then added to the reaction vial. The reaction mixture was stirred at ambient temperature for 3 h. The volatiles were removed under reduced pressure to a white solid residue. Aqueous hydrochloric acid (3.26 mmole, 3.26 ml of 1.0 M solution) was added. The white solid was collected by filtration as the title compound (125 mg, 81% yield).

reactant | Ethyl 3-(8-cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoate | 0.45 mmole, 167 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NCC)CCC(=O)OCC)=O | C20H28N4O3
reactant | Lithium hydroxide | 1.46 mmole, 35 mg | [OH-].[Li+]
reactant | hydrochloric acid | 3.26 mmole, 1.0 M, 3.26 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 3-(8-Cyclopentyl-2-(ethylamino)-4-methyl-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)propanoic acid | 125 mg, 81% yield | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NCC)CCC(=O)O)=O | C18H24N4O3
